US04104467
(A) N-[5-(Trifluoromethyl)-1,3-benzodithiol-2-ylidene]benzenamine
A solution of 5-(trifluoromethyl)-1,2,3-benzothiadiazole (5 g) in 50 ml of phenylisothiocyanate is heated at reflux under an inert atmosphere until the evolution of nitrogen ceases (approximately 3 hours). The excess phenyl isothiocyanate is removed by distillation. The residue is chromatographed on 1000 ml of silica gel eluting with pentane/dichloromethane (4:1). Fractions containing the desired product are combined and concentrated in vacuo. The resultant solid is recrystallized from hexane to yield 4 g of the title compound, melting point 122°-123° C.

reactant | 5-(trifluoromethyl)-1,2,3-benzothiadiazole | 5 g | FC(C=1C=CC2=C(N=NS2)C1)(F)F | C7H3F3N2S
reactant | phenylisothiocyanate | 50 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
product | N-[5-(Trifluoromethyl)-1,3-benzodithiol-2-ylidene]benzenamine | 4 g | FC(C1=CC2=C(SC(S2)=NC2=CC=CC=C2)C=C1)(F)F | C14H8F3NS2
